US04954507
2-AMINOMETHYL-1,4-DI-PHENYLMETHYL PIPERAZINE
The solution of 4.25 g (10 mmol) of 2-phtalimidomethyl-1,4-di-phenylmethyl piperazine and 1.25 g (25 mmol) of hydrazine monohydrate in 50 ml ethanol was stirred 2 hours under reflux. Insoluble material was filtered off. The ethanol layer was evaporated to dryness to afford a residue taken up in 20 ml ethyl ether, filtered again and evaporated to give 3.0 g of the title compound as an oil.

reactant | 2-phtalimidomethyl-1,4-di-phenylmethyl piperazine | 10 mmol, 4.25 g | C1(C=2C(C(N1CC1N(CCN(C1)CC1=CC=CC=C1)CC1=CC=CC=C1)=O)=CC=CC2)=O | C27H27N3O2
reactant | hydrazine monohydrate | 25 mmol, 1.25 g | O.NN
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethyl ether | 20 ml | C(C)OCC | C4H10O
product | 2-AMINOMETHYL-1,4-DI-PHENYLMETHYL PIPERAZINE | 3.0 g | NCC1N(CCN(C1)CC1=CC=CC=C1)CC1=CC=CC=C1 | C19H25N3
